US07071201B2
Example 70: Synthesis of 1-{1-[3-(4-hydroxymethylphenoxy)propyl]piperidin-4-yl}indoline
1-(4-Piperidyl)indoline (263 mg) and 4-(3-bromopropoxy)benzyl alcohol (389 mg) were treated as in Example 2 to give the title compound (422 mg) as a pale orange amorphous solid (yield: 92%).

reactant | 1-(4-Piperidyl)indoline | 263 mg | N1CCC(CC1)N1CCC2=CC=CC=C12 | C13H18N2
reactant | 4-(3-bromopropoxy)benzyl alcohol | 389 mg | BrCCCOC1=CC=C(CO)C=C1 | C10H13BrO2
product | 1-{1-[3-(4-hydroxymethylphenoxy)propyl]piperidin-4-yl}indoline | 422 mg, yield: 92% | OCC1=CC=C(OCCCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C23H30N2O2
